US04046753
2-(o-Tolylazo)-2-Thiazoline
To a stirred solution of 8.0 g. 2-(o-tolylhydrazino)-2-thiazoline in 400 ml. of ethyl acetate is added 4.0 g. of silver oxide. The reaction mixture is stirred for 18 hours at room temperature and filtered. The filtrate is evaporated to dryness in vacuo and the residue recrystallized from aqueous ethanol affording 6.7 g. of 2-(o-tolylazo)-2-thiazoline, m.p. 79°-80° C.

reactant | 2-(o-tolylhydrazino)-2-thiazoline | C1(=C(C=CC=C1)NNC=1SCCN1)C | C10H13N3S
catalyst | silver oxide | [Ag]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(o-Tolylazo)-2-Thiazoline | C1(=C(C=CC=C1)N=NC=1SCCN1)C | C10H11N3S
